US07994185B2
Step B: 2-propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}carbamate
A stirring mixture of 2-propen-1-yl {3-[bromo(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate (6.1 g, 14.23 mmol) and 2,2-dimethylpropanamide (2.16 g, 21.35 mmol) in DMA (200 ml) was heated to 80° C. for 2 days. Upon cooling, the reaction mixture was poured into water (500 ml) and extracted with EtOAc (100 ml×5). The combined organic layers were washed with brine, separated, dried over Na2SO4, filtered, and concentrated. The crude product was added to a silica gel column and eluted with petroleum ether with EtOAc (10% to 16%) and collected fractions to obtain title compound as yellow solid (1.21 g, 19%). MS (ES): 431 [M+H]+.

reactant | 2-propen-1-yl {3-[bromo(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate | 14.23 mmol, 6.1 g | BrC(C(=O)C=1C(=C(C=CC1)NC(OCC=C)=O)F)C1=NC(=NC=C1)Cl | C16H12BrClFN3O3
reactant | 2,2-dimethylpropanamide | 21.35 mmol, 2.16 g | CC(C(=O)N)(C)C | C5H11NO
reactant | water | 500 ml | O | H2O
solvent | DMA | 200 ml | CC(=O)N(C)C | C4H9NO
product | 2-propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}carbamate | 1.21 g, 19% | ClC1=NC=CC(=N1)C1=C(N=C(O1)C(C)(C)C)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C21H20ClFN4O3
